US07517873B2
To a solution of 1.2 g (0.0032 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-butanoic acid ethyl ester (IV-41) in 20 mL of ethanol was added 1.82 g (0.0081 mole) of stannous chloride dihydrate and 0.5 mL of hydrochloric acid. The mixture was heated to 60 degrees for 2 hrs. The mixture was concentrated under reduced pressure. The residue was taken up in 50 mL of water and extracted with three times with 50 mL of ethyl acetate. The combined organics were dried with magnesium sulfate, filtered and concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5) gave 0.36 g of (rac)-2-chloro-9-cyclopentyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-41) as a white solid.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-butanoic acid ethyl ester | 0.0032 mole, 1.2 g | C(C)OC(C(C(C)N(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C16H23ClN4O4
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (rac)-2-chloro-9-cyclopentyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.36 g | ClC=1N=CC2=C(N(C(C(C(N2)=O)C)C)C2CCCC2)N1 | C14H19ClN4O
